US07037994B2
Methyl 6-bromo-2-naphthalene carboxylate (98 g) was dissolved in dimethoxyethane (2 1) and tetrakis(triphenylphosphine)palladium (44 g) was added in nitrogen atmosphere. The mixture was stirred for 30 minutes at room temperature. Potassium carbonate (52 g), water (1 1) and 2,4,6-trivinylcyclotriboroxane-pyridine complex (91 g) were added and the mixture was stirred for 24 hours while refluxing with heating. There action mixture was cooled to room temperature and treated with activated alumina to obtain methyl 2-vinyl-6-naphthalene carboxylate (77 g).

reactant | Methyl 6-bromo-2-naphthalene carboxylate | 98 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H9BrO2
reactant | Potassium carbonate | 52 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | 2,4,6-trivinylcyclotriboroxane-pyridine complex | 91 g | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
solvent | dimethoxyethane | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 44 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-vinyl-6-naphthalene carboxylate | 77 g | C(=C)C1=CC2=CC=C(C=C2C=C1)C(=O)OC | C14H12O2
